### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Coinvariants): coinvariants of a representation

### PR DESCRIPTION
**Pull request by 101damnations**
Given a commutative ring `k` and a monoid `G`, this PR introduces the coinvariants of a `k`-linear `G`-representation `(V, ρ)`.

We first define `Representation.Coinvariants.ker`, the submodule of `V` generated by elements of the form `ρ g x - x` for `x : V`, `g : G`. Then the coinvariants of `(V, ρ)` are the quotient of `V` by this submodule. We show that the functor sending a representation to its coinvariants is left adjoint to the functor equipping a module with the trivial representation.

---

- [x] depends on: #21652 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+universe u v
+
+namespace Representation
+
+variable {k G V W : Type*} [CommRing k] [Monoid G] [AddCommGroup V] [Module k V]
+  [AddCommGroup W] [Module k W] (ρ : Representation k G V) (τ : Representation k G W)
+
+/-- The submodule of a representation generated by elements of the form `ρ g x - x`. -/
+def augmentationSubmodule : Submodule k V :=
+  Submodule.span k (Set.range fun (x : G × V) => ρ x.1 x.2 - x.2)
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:30]: Maybe the name should be `Coinvariants.ker`?

I also like calling variables in `G x V` names like `gv` :-)

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 2]
```diff
@@ -0,0 +1,182 @@
...
+
+variable (ρ)
+
+/-- The coinvariants of a representation, `V ⧸ ⟨{ρ g x - x | g ∈ G, x ∈ V}⟩`. -/
+def Coinvariants := V ⧸ augmentationSubmodule ρ
+
+namespace Coinvariants
+
+instance : AddCommGroup (Coinvariants ρ) := by unfold Coinvariants; infer_instance
+instance : Module k (Coinvariants ρ) := by unfold Coinvariants; infer_instance
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:46]: I think `inferInstanceAs` is better here.

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 3]
```diff
@@ -0,0 +1,182 @@
...
+
+@[simp]
+theorem lift_comp_mk (f : V →ₗ[k] W) (h : ∀ (x : G), f ∘ₗ ρ x = f) :
+    lift ρ f h ∘ₗ mk ρ = f := rfl
+
+@[simp]
+theorem lift_mk (f : V →ₗ[k] W) (h : ∀ (x : G), f ∘ₗ ρ x = f) (x : V) :
+    lift ρ f h (mk _ x) = f x := rfl
+
+@[ext]
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:83]: Maybe `ext high` to ensure it fires before `LinearMap.ext`?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 4]
```diff
@@ -0,0 +1,182 @@
...
+  Submodule.linearMap_qext _ H
+
+variable (ρ)
+
+/-- Given `G`-representations on `k`-modules `V, W`, a linear map `V →ₗ[k] W` commuting with
+the representations induces a `k`-linear map between the coinvariants. -/
+noncomputable def map (f : V →ₗ[k] W) (hf : ∀ g, f ∘ₗ ρ g = τ g ∘ₗ f) :
+    Coinvariants ρ →ₗ[k] Coinvariants τ :=
+  lift _ (mk _ ∘ₗ f) fun g => LinearMap.ext fun x => (mk_eq_iff _).2 <|
+    mem_augmentationSubmodule_of_eq (ρ := τ) g (f x) _ <| by simpa using congr($((hf g).symm) x)
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:94]: (could probably be golfed using the above ext lemma but big deal)

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 5]
```diff
@@ -0,0 +1,182 @@
...
+variable {k G V W : Type*} [CommRing k] [Monoid G] [AddCommGroup V] [Module k V]
+  [AddCommGroup W] [Module k W] (ρ : Representation k G V) (τ : Representation k G W)
+
+/-- The submodule of a representation generated by elements of the form `ρ g x - x`. -/
+def augmentationSubmodule : Submodule k V :=
+  Submodule.span k (Set.range fun (x : G × V) => ρ x.1 x.2 - x.2)
+
+variable {ρ}
+
+lemma mem_augmentationSubmodule_of_eq (g : G) (x : V) (a : V) (h : ρ g x - x = a) :
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RepresentationTheory/Coinvariants.lean:34]: Probably we should also have the lemma that says `ρ g x - x ∈ augmentationSubmodule ρ`

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 6]
```diff
@@ -0,0 +1,182 @@
...
+    a ∈ augmentationSubmodule ρ :=
+  Submodule.subset_span ⟨(g, x), h⟩
+
+variable (ρ)
+
+/-- The coinvariants of a representation, `V ⧸ ⟨{ρ g x - x | g ∈ G, x ∈ V}⟩`. -/
+def Coinvariants := V ⧸ augmentationSubmodule ρ
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Coinvariants.lean:41]: Are you sure you don't just want `abbrev`? If not, can you add to the docstring where the API diverges from the quotient type?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 7]
```diff
@@ -0,0 +1,182 @@
...
+
+@[simp]
+lemma mk_ρ_apply (g : G) (x : V) :
+    mk ρ (ρ g x) = mk ρ x :=
+  (mk_eq_iff _).2 <| mem_augmentationSubmodule_of_eq g x _ rfl
+
+@[elab_as_elim]
+theorem induction_on {C : Coinvariants ρ → Prop} (x : Coinvariants ρ) (h : ∀ v : V, C (mk ρ v)) :
+    C x :=
+  Submodule.Quotient.induction_on _ x h
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Coinvariants.lean:63]:
```suggestion
@[elab_as_elim]
theorem induction_on {motive : Coinvariants ρ → Prop} (x : Coinvariants ρ)
    (h : ∀ v : V, motive (mk ρ v)) :
    motive x :=
  Submodule.Quotient.induction_on _ x h
```

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 8]
```diff
@@ -0,0 +1,182 @@
...
+
+@[ext]
+lemma hom_ext {f g : Coinvariants ρ →ₗ[k] W} (H : f ∘ₗ mk ρ = g ∘ₗ mk ρ) : f = g :=
+  Submodule.linearMap_qext _ H
+
+variable (ρ)
+
+/-- Given `G`-representations on `k`-modules `V, W`, a linear map `V →ₗ[k] W` commuting with
+the representations induces a `k`-linear map between the coinvariants. -/
+noncomputable def map (f : V →ₗ[k] W) (hf : ∀ g, f ∘ₗ ρ g = τ g ∘ₗ f) :
```
Comment (eric-wieser) [inline Mathlib/RepresentationTheory/Coinvariants.lean:91]: Is there a `map_id` or `map_comp` lemma that you could write?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 9]
```diff
@@ -0,0 +1,182 @@
...
+variable {k G : Type u} [CommRing k] [Monoid G] {A B C : Rep k G} {n : ℕ}
+
+/-- The linear map underlying a `G`-representation morphism `A ⟶ B`, where `B` has the trivial
+representation, factors through `A_G`. -/
+noncomputable abbrev lift [B.ρ.IsTrivial] (f : A ⟶ B) :
+    A.ρ.Coinvariants →ₗ[k] B :=
+  Representation.Coinvariants.lift _ f.hom.hom fun _ => by
+    ext
+    have := hom_comm_apply f
+    simp_all
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:124]: How about this is replaced by `desc` and the output is a morphism in the category?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 10]
```diff
@@ -0,0 +1,182 @@
...
+      left_inv _ := by ext; rfl
+      right_inv _ := Action.Hom.ext <| rfl }
+    homEquiv_naturality_left_symm _ _ := by ext; rfl
+    homEquiv_naturality_right := by intros; rfl }
+
+instance : (functor k G).PreservesZeroMorphisms where
+  map_zero _ _ := by ext; rfl
+
+instance : Limits.PreservesColimits (functor k G) :=
+  (adjunction k G).leftAdjoint_preservesColimits
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/Coinvariants.lean:179]: It would be better to state `(functor k G).IsLeftAdjoint` instead, so that `PreservesColimits` can be inferred automatically.

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 11]
```diff
@@ -0,0 +1,182 @@
...
+noncomputable abbrev lift [B.ρ.IsTrivial] (f : A ⟶ B) :
+    A.ρ.Coinvariants →ₗ[k] B :=
+  Representation.Coinvariants.lift _ f.hom.hom fun _ => by
+    ext
+    have := hom_comm_apply f
+    simp_all
+
+/-- A `G`-representation morphism `A ⟶ B` induces a linear map `A_G →ₗ[k] B_G`. -/
+noncomputable abbrev map (f : A ⟶ B) :
+    A.ρ.Coinvariants →ₗ[k] B.ρ.Coinvariants :=
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:128]: Also categorify?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 12]
```diff
@@ -0,0 +1,182 @@
...
+
+@[simp]
+theorem map_comp (f : A ⟶ B) (g : B ⟶ C) :
+    map (f ≫ g) = map g ∘ₗ map f := by
+  ext; rfl
+
+variable (k G)
+
+/-- The functor sending a representation to its coinvariants. -/
+@[simps obj map]
```
Comment (erdOne) [inline Mathlib/RepresentationTheory/Coinvariants.lean:144]: This should be unsimped if the normal form is now `functor.obj _`.

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 13]
```diff
@@ -0,0 +1,182 @@
...
+    (hfg : f.hom ∘ₗ Coinvariants.mk A.ρ = g.hom ∘ₗ Coinvariants.mk A.ρ) :
+    f = g := ModuleCat.hom_ext <| Coinvariants.hom_ext hfg
+
+instance : (functor k G).Additive where
+  map_add := ModuleCat.hom_ext <| LinearMap.ext fun x => Quotient.inductionOn' x (fun _ => rfl)
+
+/-- The adjunction between the functor sending a representation to its coinvariants and the functor
+equipping a module with the trivial representation. -/
+noncomputable def adjunction : functor k G ⊣ trivialFunctor G :=
+  Adjunction.mkOfHomEquiv {
```
Comment (erdOne) [inline Mathlib/RepresentationTheory/Coinvariants.lean:161]: You might want to use the usual constructor if you care about the defers on units and counits.

File: Mathlib/RepresentationTheory/Coinvariants.lean (hunk 4 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/Coinvariants.lean]: (it's a map out of `V` so afraid not)

**Comment by joelriou** [comment]
Thanks!

bors merge
